US06878722B2
Step 31a: Preparation of 1-iso-butyl-cyclopropanesulfonamide-tert-butylcarbamate
Step 31a) To a solution of N,N-diisopropylamine (1.1 ml, 9.54 mmol) dissolved in THF (10 mL) cooled to −78° C., was added n-BuLi (1.6 M in hexane, 5.9 mL, 9.54 mmol). The mixture was stirred for 1 h, and a THF (10 mL) solution of cyclopropylsulfonylamine tert-butyl carbamate (1.0 g, 4.52 mmol) was added dropwise, the generated solution was stirred for 1 h. To this solution was added neat iso-butyl iodide (0.57 mL, 5.0 mmol). The reaction mixture was allowed slowly to warm up overnite. The reaction mixture was poured into cold pH 4.0 buffer and the pH was adjusted to <4 and extracted with EtOAc (3×). The combined extracts were dried (MgSO4), concentrated. The residue was chromatographed over SiO2 eluting with EtOAC/Hexanes (0% to 50%) to afford the product in 69% yield (0.87 g) as a white solid: 1H NMR (CDCl3) □ ppm 0.92 (m, 2H), 0.95 (d, J=6.71 Hz, 6H), 1.49 (s, 9H), 1.69 (m, 2H), 1.71 (s, 2H), 1.95 (m, 1H), 6.80 (s, 1H).

reactant | N,N-diisopropylamine | 9.54 mmol, 1.1 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 9.54 mmol, 1.6 M, 5.9 mL | [Li]CCCC
reactant | cyclopropylsulfonylamine tert-butyl carbamate | 4.52 mmol, 1.0 g | C(C)(C)(C)NC(O)=O.C1(CC1)S(=O)(=O)N
reactant | iso-butyl iodide | 5.0 mmol, 0.57 mL | C(C(C)C)I | C4H9I
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-iso-butyl-cyclopropanesulfonamide tert-butylcarbamate | 69% yield | C(C(C)C)C1(CC1)S(=O)(=O)N.C(C)(C)(C)NC([O-])=O | InChI=1S/C7H15NO2S.C5H11NO2/c1-6(2)5-7(3-4-7)11(8,9)10;1-5(2,3)6-4(7)8/h6H,3-5H2,1-2H3,(H2,8,9,10);6H,1-3H3,(H,7,8)/p-1
